US08258171B2
(1) Methyl 2,4-dimethyl-3-pyrrolepropionate (1)
Methyl 5-(benzoyloxy-carbonyl)-2,4-dimethyl-3-pyrrolepropionate (1.55 g, 4.91 mmol) was dissolved in acetone (150 mL) containing 10% palladium/carbon, and the mixture was stirred at room temperature for 12 hours under a hydrogen atmosphere. The reaction mixture was filtered, the solvent was evaporated under reduced pressure, then the residue was immediately dissolved in trifluoroacetic acid (TFA, 10 mL), and the mixture was stirred at room temperature for 10 minutes under an argon atmosphere. The reaction mixture was added with dichloromethane (30 mL), then washed successively with water and 1 mol/L aqueous sodium hydrogencarbonate, dried over anhydrous sodium sulfate, and evaporated under reduced pressure to obtain pale brown oil (1, 0.835 g, 94%).

reactant | Methyl 5-(benzoyloxy-carbonyl)-2,4-dimethyl-3-pyrrolepropionate | 4.91 mmol, 1.55 g | C(C1=CC=CC=C1)(=O)OC(=O)C1=C(C(=C(N1)C)CCC(=O)OC)C | C18H19NO5
solvent | acetone | 150 mL | CC(=O)C | C3H6O
catalyst | palladium/carbon | [Pd] | Pd
product | Methyl 2,4-dimethyl-3-pyrrolepropionate | CC=1NC=C(C1CCC(=O)OC)C | C10H15NO2
